Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base / cheeses soft, ___, cottage, cream cheese
 
Attending: ___.
 
Chief Complaint:
abdominal ___
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ PMH CLL (on venetoclax), Depression with psychotic features,
T2DM, CVA, presented from OSH with malaise, abdominal pain, left
leg pain, found to have ___, UTI, Hypotension, admitted to
oncology ward for further care. 

On arrival to medical ward patient was lethargic but arousable 
to
voice and clearly oriented. However, he had difficulty staying
awake during the interview, as he had received 1mg of IV 
Dilaudid
in ED several hours prior. He noted that he did not feel
lethargic prior to receiving IV Dilaudid. As a result of his
sedation, a full history and PAML could not be obtained. 

He was able to state that he initially presented to OSH with
malaise, lower abdominal pain, which he felt radiated to his 
left
leg, that was a/w difficulty urinating. He denied fever, chills,
cough, sore throat, nausea, vomiting, diarrhea/constipation.
Noted that he had decreased appetite/intake at home. Noted that
since foley was placed his abdominal and leg pain is resolved.
Reported that he was tired but asymptomatic on admission to
oncology ward. 

Per review of outside hospital records, patient had elevated Cr
of 2.2, and BP to mid ___ during stay. He was given IVF and 
blood
pressure rebounded and stayed normal thereafter. Bladder scan
revealed >500cc so foley was placed and UA was not consistent
with infection. Lower extremity duplex performed on both legs 
and
was negative for DVT. CTH performed for questions of altered
mental status and was without acute intracranial pathology. 
Given
that he gets his care at ___, wife requested transfer. 

In our ED, initial vitals: 98.6 72 125/62 18 100% RA. WBC 14.4,
Hgb 9.1, plt 146, BNP 311, ALT 67, AST 57, Ca/Mg/Phos wnl, HCO3
18, BUN/Cr ___, lactate 2.8, UA with 182 WBC/RBC, mod bact, 
lg
leuk, mod bld. Urine Na was 35, Osm 377
 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
-___: found to have CLL incidentally on labs performed during
psych admission. 
- Followed for several years until ___ when he noted night
sweats and progressive fatigue.
- Ibrutinib ___. Complicated by multiple bleeding events  
Including retinal bleed.  Ibrutinib was held, lymph node. 
Ibrutinib was restarted, c/b GI and pericardial bleeding
- Ventoclax initiated ___

PAST MEDICAL HISTORY: 
-Non-seminoma testicular GCT sp 4 cycles EP ___
-Chronic lymphocytic leukemia as above.
-Sick sinus syndrome s/p PPM ___ Revo DDD, 
MRI-compatible,
___.
-CAD s/p DES to mid-LAD in ___
-Cerebrovascular accident (___) with residual left weakness.
-Diabetes mellitus type II on insulin
-pAF on xarelto
-Hypertension.
-Hyperlipidemia.
-Morbid obesity.
-Obstructive sleep apnea - not on CPAP.
-Pancreatitis.
-Hypothyroidism.
-Peripheral neuropathy.
-Chronic pain.
-Osteoarthritis.
-Major depression with psychotic features (vs schizoaffective
disorder per patient).
-Anxiety.
-Conversion disorder.
-Benign paroxysmal positional vertigo.
-Glaucoma.

-s/p Cholecystectomy.
-s/p Bilateral shoulder surgery.
-s/p Gastric bypass surgery ___.

 
Social History:
___
Family History:
Father and mother with cardiovascular disease; mother died of
unknown malignancy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: ___ 2221 Temp: 97.2 PO BP: 124/66 HR: 70 RR: 20 O2
sat: 98% O2 delivery: RA  
GENERAL: laying in bed, appears calm/comfortable, lethargic,
opens eyes to voice then quickly falls back asleep
EYES: right eye dilated chronically s/p cataract surgery (per
patient), anicteric
HEENT:  OP clear but dry MM
NECK:  supple, normal ROM
LUNGS:  CTA anteriorly as is too lethargic to sit forward
CV: RRR no m/r/g, normal distal perfusion 
ABD: SOFT, protruberant, no tenderness elicited, no guarding
GENITOURINARY: + foley with dark yellow urine + significant
amount of brown sediment
EXT: warm, no deformity, no e/o trauma of left leg, no 
asymmetry,
no tenderness to palpation 
SKIN:  warm, dry, no rash
NEURO:  AOX3, (name, year, trump, nurses name), quickly falls
asleep but awakens to voice
ACCESS: PORT in right chest dressing c/d/I

DISCHARGE PHYSICAL EXAM:
VSS
GENERAL: Sitting in chair with eyes closed, appears comfortable, 

EYES: Right eye dilated chronically s/p cataract surgery (per
patient), anicteric
HEENT: OP clear. Dry MM
NECK: Supple, normal ROM
LUNGS: CTA b/l. No increased WOB. 
CV: RRR no m/r/g, normal distal perfusion 
ABD: Soft, very protuberant, tenderness on palpation of lower
quadrants bilaterally, no rebound tenderness or guarding
GENITOURINARY: No foley since ___
EXT: Warm, no deformity or evidence trauma of left leg. No
asymmetry or tenderness to palpation 
SKIN: warm, dry, no rash
NEURO: AOX3
PSYCH: Irritable with ROS. Prolonged latency of speech, not
frankly psychotic
ACCESS: POC w/ no bleeding, erythema or discharge. 
  
 
Pertinent Results:
ADMISSION LABS:

___ 05:30PM BLOOD WBC-14.4* RBC-3.60* Hgb-9.1* Hct-31.0* 
MCV-86 MCH-25.3* MCHC-29.4* RDW-16.8* RDWSD-52.3* Plt ___
___ 05:30PM BLOOD Neuts-47 ___ Monos-7 Eos-0* Baso-0 
Atyps-1* AbsNeut-6.77* AbsLymp-6.62* AbsMono-1.01* AbsEos-0.00* 
AbsBaso-0.00*
___ 05:03AM BLOOD ___ PTT-31.8 ___
___ 05:30PM BLOOD Glucose-132* UreaN-23* Creat-1.7* Na-137 
K-4.4 Cl-104 HCO3-18* AnGap-15
___ 05:30PM BLOOD ALT-67* AST-57* AlkPhos-100 TotBili-0.2
___ 05:30PM BLOOD Albumin-3.6 Calcium-8.7 Phos-3.8 Mg-2.0
___ 05:43PM BLOOD Lactate-2.8*
___ 08:48PM BLOOD Lactate-1.1

DISCHARGE LABS:

___ 06:35AM BLOOD WBC-10.9* RBC-3.44* Hgb-8.7* Hct-29.3* 
MCV-85 MCH-25.3* MCHC-29.7* RDW-17.0* RDWSD-51.5* Plt ___
___ 06:35AM BLOOD Neuts-29* Lymphs-62* Monos-5 Eos-3 Baso-0 
Metas-1* AbsNeut-3.16 AbsLymp-6.76* AbsMono-0.55 AbsEos-0.33 
AbsBaso-0.00*
___ 06:35AM BLOOD Glucose-160* UreaN-14 Creat-1.1 Na-141 
K-4.4 Cl-105 HCO3-23 AnGap-13
___ 06:35AM BLOOD ALT-56* AST-53* LD(LDH)-317* AlkPhos-112 
TotBili-0.2
___ 06:35AM BLOOD Albumin-3.6 Calcium-9.4 Phos-3.0 Mg-2.___ year old male with CLL (on venetoclax) with
PMH significant for depression with psychotic features, T2DM, 
CVA
who presented from OSH with malaise, abdominal pain, left leg
pain, found to have ___, presumed UTI and hypotension.

ACUTE CONDITIONS
========================

#Acute Abdominal Pain (Improved):
#Presumed Complicated UTI:
#Urinary Retention (resolved)
___ (resolved)
#Hematuria:
Patient with suprapubic tenderness at OSH, occurred in setting 
of
acute urinary retention which corresponds to location of lower
abdominal pain. Significant improvement after foley placement.
However, noted worsening of abdominal pain on ___ which
prompted further imaging with CT A/P. Alternate cause could be
due to recent jejunal ulcer vs. known gastric fistula causing
intra-abdominal complication that was diagnosed via CT scan and
EGD last admission on ___ (less likely as abdomen is benign
currently). Urinalysis grossly positive from ___ therefore,
initiated ceftriaxone. However, culture negative. Given UA
results on admission, presenting symptoms and high risk for
infection in s/o CLL and treatment, decision was made to 
continue
a course of ceftriaxone but extended to a ___s would
be a complicated UTI. CT A/P ___ does not show an acute
intra-abdominal process but noted gastrogastric fistula or 
bypass
reversal (not new and unlikely to cause his pain). Also, 
consider
role of constipation as possible cause of abdominal discomfort 
and retention. 
-Lactate unremarkable at 0.9. 
-Renal U/S negative ___
-Completed ceftriaxone x7D (D1: ___
-constipation relief after BM ___
-GI prophylaxis: protonix and carafate
-will schedule outpatient urology appointment to further work up 
hematuria and cause of urinary retention

#LLE Pain: Most likely ___ neuropathy or referred pain ___ acute
urinary retention. U/S at OSH did not show DVT. No tenderness or
deformity to warrant x-ray or cross sectional imaging. Restarted
home gabapentin 100mg TID on ___ with improvement. ___
following. Plan to resume ___ services at discharge 

#Constipation: currently resolved, rec continuing bowel regimen 
on discharge 

CHRONIC/RESOLVED/STABLE CONDITIONS
=========================================

#Lethargy: Resolved. Likely over-medication with dilaudid in ED
on admission ___. CTH at OSH negative for acute ICH.
Over-sedation ___ psych medications also possible but less 
likely
as presented with normal alertness while on home meds versus 
UTI.
FSG wnl on admission. Resumed home psychiatry medications that
was originally held due to sedation including topomax,
hydroxyzine, and risperidone ___. Monitor for reoccurrence 

#Hypotension: Resolved. Likely ___ hypovolemia as appears dry on
exam. Anti-HTN meds + diuretics likely contributing factors
-IVF prn
-Hold losartan and lasix (as above)
-Trend BPs, restart metoprolol if becomes hypertensive

___: Likely ___ hypovolemia-related as improved Cr with fluids.
-Renally dose medications, holding Lasix & losartan
-Foley discontinued ___ and no issues voiding since
-U/S negative for hydronephrosis

#CLL: Patient had recurrence of night sweats and noted to have 
an
increase in his white blood cell count with prominent
lymphocytosis, consistent with relapsing disease. Given these
changes, he was started on ibrutinib. However, given multiple
significant bleeding events (GI bleeding and pericardial bleed),
further ibrutinib therapy was deferred and venetoclax was
initiated. In the setting of active infection concern, 
venetoclax
was held but now restarted on ___ per primary oncologist. 
-Continue venetoclax 400mg daily
-Continue acyclovir for infectious prophylaxis

#Transaminitis & HLD: Stable. Uptrending as of ___ ALT 75
(previously 64 on ___ and AST 84 (previously 69 on ___.
Present on prior admits, thought to be ___ drug-induced liver
injury of low level, though unclear causative agent as is on so
many agents which could potentially lead to transaminitis. Hep
serologies in ___ were negative. Given strong indication for
current medications, will continue except for fenofibrate/statin
-Trend LFTs daily

#T2DM: Continues on ___ with SS per ___ recommendations 
from
last admission. Held metformin on admission. 
-When not eating, give sliding scale only
-Trend FSG, consider re-consulting ___ if trend worsens

#Anemia: Noted on last hospitalization to be due to iron
deficiency and likely contribution from CLL/Venetoclax
-Continue CBC daily
-Maintain type and screen
-Transfuse Hgb<7

#Thrombocytopenia: Stable. Likely ___ treatment vs. disease. 
-Trend daily
-Transfuse for plt <10
-Maintain type and screen

#History of depression with psychotic features: On last
hospitalization, had fluctuating mental state, was followed by
psychiatry who adjusted his medications by stopping ziprasidone 
&
amitriptyline, decreasing gabapentin, and continuing
escitalopram, risperidone, and topirimate
-Continue psychiatric medications, resumed sedating medications
as above (ex Risperdal, melatonin, hydroxyzine, Topamax)
-Trend mental status closely, re-consult psych as needed

#SSS status post PPM: Atrial paced per EKG in ED
-Continue rivaroxaban 20mg daily
-Hold Metoprolol in s/o hypotension as above, restart PRN

#History of Gout: Holding colchicine in s/o renal injury. 
-Continues on allopurinol ___ daily

#Hypothyroidism: Dose was adjusted on most recent admission. He
continues on synthroid ___ daily, next re-check ___

#History of Jejunal Ulcer: Continues sucralfate/pantoprazole

#History of CVA: Had right-sided subcortical lacunar infarcts in
___ with residual mild left-sided weakness, but does not have 
an
effect on mobility. Continues on ASA.

CORE MEASURES
====================== 
#FEN: IVF, replete electrolytes, regular diet  
#Prophylaxis:    
-DVT: rivaroxaban as above
#Access: PORT
#HCP: ___ Relationship: son; Phone number: ___ 
#Code: Full presumed

#Disposition: home with services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Acyclovir 400 mg PO Q8H 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Docusate Sodium 100 mg PO BID 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Fenofibrate 54 mg PO DAILY 
8. Gabapentin 100 mg PO TID 
9. Levothyroxine Sodium 125 mcg PO DAILY 
10. Lidocaine 5% Patch 3 PTCH TD QPM 
11. Magnesium Oxide 400 mg PO BID 
12. Metoprolol Succinate XL 150 mg PO DAILY 
13. Nystatin-Triamcinolone Cream 1 Appl TP BID 
14. Pantoprazole 40 mg PO Q12H 
15. RisperiDONE 3 mg PO QHS 
16. Rivaroxaban 20 mg PO DINNER 
17. Topiramate (Topamax) 50 mg PO DAILY 
18. Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY 
19. Venetoclax 400 mg PO DAILY 
20. Allopurinol ___ mg PO DAILY 
21. Carbamide Peroxide 6.5% ___ DROP BOTH EARS DAILY 
22. Colchicine 0.6 mg PO DAILY 
23. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
24. Furosemide 20 mg PO DAILY 
25. melatonin 6 mg oral qhs 
26. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
27. Losartan Potassium 50 mg PO DAILY 
28. HydrOXYzine 10 mg PO Q6H:PRN anxiety 
29. Sucralfate 1 gm PO BID 
30. Senna 8.6 mg PO BID:PRN Constipation - First Line 
31. OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
32. ___ 70 Units Breakfast
___ 50 Units Lunch
___ 30 Units Dinner
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
2.  ___ 70 Units Breakfast
___ 50 Units Lunch
___ 30 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
3.  Senna 8.6 mg PO BID  
4.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
5.  Acyclovir 400 mg PO Q8H  
6.  Allopurinol ___ mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 40 mg PO QPM  
9.  Docusate Sodium 100 mg PO BID  
10.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
11.  Escitalopram Oxalate 20 mg PO DAILY  
12.  Fenofibrate 54 mg PO DAILY  
13.  Gabapentin 100 mg PO TID  
14.  HydrOXYzine 10 mg PO Q6H:PRN anxiety  
15.  Levothyroxine Sodium 125 mcg PO DAILY  
16.  Lidocaine 5% Patch 3 PTCH TD QPM  
17.  Magnesium Oxide 400 mg PO BID  
18.  melatonin 6 mg oral qhs  
19.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
20.  Metoprolol Succinate XL 150 mg PO DAILY  
21.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate  
22.  Pantoprazole 40 mg PO Q12H  
23.  RisperiDONE 3 mg PO QHS  
24.  Rivaroxaban 20 mg PO DINNER  
25.  Sucralfate 1 gm PO BID  
26.  Topiramate (Topamax) 50 mg PO DAILY  
27.  Venetoclax 400 mg PO DAILY  
28. HELD- Colchicine 0.6 mg PO DAILY  This medication was held. 
Do not restart Colchicine until outpatient team tells you to 
restart
29. HELD- Furosemide 20 mg PO DAILY  This medication was held. 
Do not restart Furosemide until outpatient team tells you to do 
so
30. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until outpatient team 
tells you to do so

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: 
UTI
___
CLL
Constipation
Acute Abdominal Pain

Secondary Diagnoses: 
Jejunal Ulcer
Gastro-gastric Fistula 
Lethargy
Hypothyroidism
Delirium
Insulin dependent diabetes mellitus 
Depression with psychotic features, in remission 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care here at ___! 

Why was I admitted to the hospital? 
- You were admitted for abdominal pain, urinary retention, and 
acute kidney injury.

What was done for me while I was in the hospital? 
- We gave you antibiotics for your urinary tract infection
- We gave you pain medications as needed

What should I do when I leave the hospital? 
- please check your blood sugars before meals and at bedtime 
everyday, and bring a log of your readings to your next doctors 
___.
- Take all of your medications as prescribed
- Follow-up with all of your physicians as directed 

Sincerely, 

Your ___ Care Team 
 
Followup Instructions:
___